US04259255
If, instead of sodium methylate, sodium ethylate in solution in alcohol is used for esterifying the urethane toluene-2-sulphonic acid chloride according to Example 1, the 4-isocyanatotoluene-2-sulphonic acid ethyl ester is similarly obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | sodium ethylate | CC[O-].[Na+]
reactant | urethane toluene-2-sulphonic acid chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C.NC(=O)OCC
product | 4-isocyanatotoluene-2-sulphonic acid ethyl ester | C(C)OS(=O)(=O)C=1C(=CC=C(C1)N=C=O)C | C10H11NO4S
